US08426447B2
To a solution of (S)-2-amino-4′-fluoro-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol (374 mg, 1.027 mmol) in DCM (5133 μL), triethylamine (286 μL, 2.053 mmol) and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (550 mg, 1.540 mmol) were added and the mixture was stirred overnight at room temperature. Additional N-phenyltriflimide (100 mg) and TEA (0.1 ml) were and the stirring continued for 4 hrs. The mixture was directly loaded onto 12 g RediSep column and purified using 15-60% DCM/MeOH/NH4OH to afford (S)-2-amino-5′-fluoro-2′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate.

reactant | (S)-2-amino-4′-fluoro-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol | 1.027 mmol, 374 mg | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)O)F)C=2C=NC=NC2)N1 | C19H13FN4O3
reactant | triethylamine | 2.053 mmol, 286 μL | C(C)N(CC)CC | C6H15N
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 1.540 mmol, 550 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | N-phenyltriflimide | 100 mg | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DCM | 5133 μL | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-5′-fluoro-2′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=C2OC=3C=CC(=CC3[C@@]3(C2=C1)N=C(OC3)N)C=3C=NC=NC3)F)(F)F | C20H12F4N4O5S
